US07872006B2
To a solution of 3-carboxy-1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methoxy-1H-pyrazole (3.5 g, compound obtained in Reference Example 1(6)) in methylene chloride (100 mL) was added N-aminomorpholine (1.47 g), water-soluble carbodiimide HCl (2.76 g) and 1-hydroxybenzotriazole hydrate (2.21 g), and the mixture was stirred at room temperature overnight. To the reaction mixture was added an aqueous sodium hydrogencarbonate solution and the mixture was stirred and extracted with chloroform. The organic layer was dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo and the crude product was purified by column chromatography on silica gel (solvent: hexane/ethyl acetate=40/60 to 20/80) to obtain 1-(2-chloro-phenyl)-5-(4-chlorophenyl)-4-methoxy-3-(N-morpholinocarbamoyl)-1H-pyrazole (3.49 g; yield: 81%) as a powder.

reactant | 3-carboxy-1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methoxy-1H-pyrazole | 3.5 g | C(=O)(O)C1=NN(C(=C1OC)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C17H12Cl2N2O3
reactant | N-aminomorpholine | 1.47 g | NN1CCOCC1 | C4H10N2O
reactant | 1-hydroxybenzotriazole hydrate | 2.21 g | O.ON1N=NC2=C1C=CC=C2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 2.76 g | O | H2O
product | 1-(2-chloro-phenyl)-5-(4-chlorophenyl)-4-methoxy-3-(N-morpholinocarbamoyl)-1H-pyrazole | 3.49 g, yield: 81% | ClC1=C(C=CC=C1)N1N=C(C(=C1C1=CC=C(C=C1)Cl)OC)C(NN1CCOCC1)=O | C21H20Cl2N4O3
